US08304557B2
N-[6-(3-aminophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide
To a solution of N-[6-(3-nitrophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (622 mg, 1.84 mmol) in methanol (10 mL) was added palladium carbon (50% water-containing product, 50 mg), and the mixture was stirred under a hydrogen atmosphere at room temperature for 4 hr. The reaction mixture was filtered through celite, and the filtrate was concentrated under reduced pressure. The residue was dissolved in methanol (20 mL), and ammonium chloride (300 mg, 5.61 mmol) and zinc (360 mg, 5.51 mmol) were added. The mixture was stirred under refluxing conditions for 2 hr. The reaction mixture was filtered through celite, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography (NH silica gel, ethyl acetate) to give the title compound (275 mg, 49%) as a white solid.

reactant | N-[6-(3-nitrophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 1.84 mmol, 622 mg | [N+](=O)([O-])C=1C=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=CC1 | C17H14N4O4
reactant | ammonium chloride | 5.61 mmol, 300 mg | [Cl-].[NH4+]
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium carbon | 50 mg | [C].[Pd]
catalyst | zinc | 5.51 mmol, 360 mg | [Zn] | Zn
product | N-[6-(3-aminophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 275 mg, 49% | NC=1C=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=CC1 | C17H16N4O2
